US07842694B2
3-Hydroxy-5-({(1S)-1-[(methyoxy)methyl]propyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
To a solution of 3-({(1S)-1-[(methyloxy)methyl]propyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide (4.6 g, 11 mmol) in 1:1 THF:methanol (100 mL) was added 10% w/w palladium on carbon (450 mg) and the resulting mixture was stirred under an atmosphere of hydrogen for 6 hours. The atmosphere was replaced with argon and the mixture was filtered and evaporated to afford the title compound as a white solid (3.6 g).

reactant | 3-({(1S)-1-[(methyloxy)methyl]propyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide | 11 mmol, 4.6 g | COC[C@H](CC)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OCC1=CC=CC=C1 | C23H27N3O4
reactant | THF | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 450 mg | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 3-Hydroxy-5-({(1S)-1-[(methyoxy)methyl]propyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 3.6 g | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H](CC)COC | C16H21N3O4
